datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si:63](C)(C)[O:12][C:11](C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)=[CH2:10].F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>C[Si:63](C)(C)[O+:12]=[C:11](C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)[CH2:10][C:20]1(F)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2>>C[N:21](C1=CC=CC=C1)[CH2:20][CH:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C.[S-:10][C:61]#[N:62]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([S:10][C:61]#[N:62])[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10](C)([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]2)/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[C:11]1=[CH:10]CCCC1>>C[C+:11]1CCCC[CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]1 10,11=10,20"
"C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>C[S+:61](C)[CH:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]1[N+](=O)[O-])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1 10=20;20,21=21,22;22,23=23"
"C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.C[C:13]1=[CH:12][CH:11]([H:10])[C:62](C)=[CH:63][CH2:64]1>>C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH:20]2[H:10].C[C+:13]1[CH:12]=[CH:11][C:62](C)=[CH:63][CH2:64]1 10,11=10,20;12,13=11,12"
"CCCCCC[SiH2:11][H:10].C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CCCCCC[SiH2+:11].C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C[Si:73](C)(C)[CH2:72][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[Si:73](C)(C)[CH2:72][C+:11]([CH2:10][C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20"
"C[C:11]1([H:10])[O:12]CC[O:62]1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>C[C:11]1=[O+:12]CC[O:62]1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]1=[N+:42]([O-])O[N:35]=[C:34]21 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2.OCC[NH2:10]>>C[N:23]1[C:22]2=[C:21](C=CC=C2)[CH:20]([NH2+:10]CCO)[C:31]2=[C:32]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"C1[CH:10]=[CH:11][CH:62]=[CH:63]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2C[CH:63]=[CH:62][CH+:11]2)[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.[CH2:10]=[N+:11]=[N-:12]>>C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH:20]([CH2:10][N+:11]#[N:12])[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20;12=11,12"
CN1CCCC1[C:62]1=[CH:63][CH:72]=[CH:71][N:10]=[CH:61]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CN1CCCC1[C:62]1=[CH:63][CH:72]=[CH:71][N+:10]([CH2:20][C:31]23C4[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])=[CH:61]1 10=20
CN1CC[N:72]([C:61]([S-:10])=[S:62])CC1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN1CC[N:72]([C:61]([S:10][C:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)=[S:62])CC1 10=20
